US06930100B2
Step A. 3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-1-methylsulfanylmethyl-6-trifluoromethyl-1,3-dihydro-indol-2-one
To a 1 L, 3-necked round bottom flask equipped with an addition funnel was added 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one (25 g, 69.8 mmol) and anhydrous THF (150 mL). The solution was cooled to 0° C. and potassium bis(trimethylsilyl)amide (0.5M in toluene, 153.6 mL, 76.8 mmol) was added over 25 minutes in order to keep the reaction temperature between 0° C. and 5° C. The reaction mixture immediately turned dark orange. The solution was allowed to warm to room temperature after which chloromethyl methylsulfide (6.39 mL, 76.8 mmol) was added. The dark brown reaction was then allowed to stir at reflux. After 3 hours, the reaction mixture contained 84% (AP) of the desired product. The reaction was allowed to reflux overnight. No further reaction took place during this period (82% AP of product after overnight stirring). The reaction mixture was then allowed to cool, and 1 N HCl (100 mL) was added slowly in order to keep the reaction temperature under 30° C. After stirring for 5 minutes, heptane (200 mL) was added and the layers were separated. The organic layer was then washed with saturated NaCl (200 mL), dried over anhydrous sodium sulfate and concentrated to yield crude product (29.3 g). The crude material was then recrystallized from heptane: THF (15:1) to provide 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-1-methylsulfanylmethyl-6-trifluoromethyl-1,3-dihydro-indol-2-one as a light yellow powder (19.5 g, 67%). 1H NMR (CDCl3, 400 MHz): δ=7.78 (dd, 1H, J=2.7, 0.9 Hz), 7.32 (m, 2H), 7.21 (m, 2H), 6.73 (dd, 1H, J=8.9, 1.2 Hz), 4.95 (d, 1H, J=14.6 Hz), 4.79 (d, 1H, J=14.6 Hz), 3.48 (s, 3H), 2.23 (s, 3H).

reactant | 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one | 69.8 mmol, 25 g | ClC=1C=CC(=C(C1)C1(C(NC2=CC(=CC=C12)C(F)(F)F)=O)F)OC | C16H10ClF4NO2
reactant | potassium bis(trimethylsilyl)amide | 76.8 mmol, 0.5M, 153.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | chloromethyl methylsulfide | 76.8 mmol, 6.39 mL | ClCSC | C2H5ClS
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-1-methylsulfanylmethyl-6-trifluoromethyl-1,3-dihydro-indol-2-one | ClC=1C=CC(=C(C1)C1(C(N(C2=CC(=CC=C12)C(F)(F)F)CSC)=O)F)OC | C18H14ClF4NO2S
